US06096766
Triethyl orthoformate (28.79 ml, 25.65 g, 173 mmol) was added to a stirred, heated (80° C.) solution of 1-(5-amino-2-methoxyphenyl)ethanone (8.16 g, 49 mmol) in acetic acid (80 ml) and the mixture was stirred at 75° C. for 1 hour. Sodium azide (9.64 g, 148 mmol) was added in portions over 90 minutes, then the mixture was stirred at 75° C. for 4 hours. The mixture was cooled to room temperature and the solvent was evaporated under reduced pressure. Hydrochloric acid (1M, 100 ml) was added and the mixture was stirred at room temperature 1 hour. The solid was collected, flushed with toluene (100 ml) and dried in vacuo at room temperature. The residue was recrystallized from ethanol (700 ml) to give 1-[2-methoxy-5-(1H-tetrazol-1-y1)phenyl]ethanone as tan coloured needles (7.88 g, 73%), 1H NMR (d6 -DMSO) δ 10.06 (1H, s), 8.06 (2H, m), 7.46 (1H, d, J=7.8 Hz), 3.99 (3H, s), and 2.60 (3H, s). m/e (CI+) 219 (MH+)

reactant | Triethyl orthoformate | 173 mmol, 28.79 ml, 25.65 g | C(OCC)(OCC)OCC | C7H16O3
reactant | 1-(5-amino-2-methoxyphenyl)ethanone | 49 mmol, 8.16 g | NC=1C=CC(=C(C1)C(C)=O)OC | C9H11NO2
reactant | Sodium azide | 148 mmol, 9.64 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 1-[2-methoxy-5-(1H-tetrazol-1-y1)phenyl]ethanone | 7.88 g, 73% | COC1=C(C=C(C=C1)N1N=NN=C1)C(C)=O | C10H10N4O2
